US05804560
Preparation of N-Cbz-L-Leu-L-Leu-DL-Nle-CO2H
To a stirred solution of N-Cbz-L-Leu-L-Leu-DL-Nle-CO2Et (1.0 eq), as prepared in Example 5, in methanol at R.T. is added 1N NaOH (1.1 eq). The mixture is stirred for 6 h. The reaction mixture is cooled to 0° C., acidified with 1N HCl (pH=3) and extracted with EA. The organic extracts are washed with water, dried (MgSO4), filtered and concentrated to give a crude residue. Trituration with hexane and drying in vacuo gives the title compound, N-Cbz-L-Leu-L-Leu-DL-Nle-CO2H.

reactant | N-Cbz-L-Leu-L-Leu-DL-Nle-CO2Et | 1.0 eq | N([C@@H](CC(C)C)C(=O)N[C@@H](CC(C)C)C(=O)NC(CCCC)C(=O)C(=O)OCC)C(=O)OCC1=CC=CC=C1 | C29H45N3O7
reactant | NaOH | 1N, 1.1 eq | [OH-].[Na+]
reactant | HCl | 1N, pH=3 | Cl | ClH
solvent | methanol | CO | CH4O
product | N-Cbz-L-Leu-L-Leu-DL-Nle-CO2H | N([C@@H](CC(C)C)C(=O)N[C@@H](CC(C)C)C(=O)NC(CCCC)C(=O)O)C(=O)OCC1=CC=CC=C1 | C26H41N3O6
